US06528504B2
5,11-Dihydro-5-[2-[N-methyl-N-(3,4-methylenedioxyphenethyl) amino]ethyl]dibenzo[b,e][1,4]oxazepine Hydrochloride
5 ml of 2 M hydrochloric acid/ethyl ether was added to 5,11-dihydro-5-[2-[N-(3,4-methylenedioxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine (282 mg, 0.70 mmol), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a yellow solid (246 mg, 80%).

reactant | hydrochloric acid ethyl ether | 2 M, 5 ml | Cl.C(C)OCC
reactant | 5,11-dihydro-5-[2-[N-(3,4-methylenedioxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine | 0.70 mmol, 282 mg | C1OC=2C=C(CCN(C)CCN3C4=C(OCC5=C3C=CC=C5)C=CC=C4)C=CC2O1 | C25H26N2O3
product | 5,11-Dihydro-5-[2-[N-methyl-N-(3,4-methylenedioxyphenethyl) amino]ethyl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.CN(CCC1=CC2=C(C=C1)OCO2)CCN2C1=C(OCC3=C2C=CC=C3)C=CC=C1 | InChI=1S/C25H26N2O3.ClH/c1-26(13-12-19-10-11-24-25(16-19)30-18-29-24)14-15-27-21-7-3-2-6-20(21)17-28-23-9-5-4-8-22(23)27;/h2-11,16H,12-15,17-18H2,1H3;1H
